USH0002007H1
During a period of five minutes 2.3 grams (0.015 mole) of phosphorus oxychloride was added dropwise to 10 mL of N,N-dimethylformamide. The solution was stirred for 30 minutes and then cooled in an ice bath. To this was added dropwise a solution of 2.0 grams (0.013 mole) of 4-chloroindole in 3 mL of N,N-dimethylformamide. Upon completion of the addition the ice bath was removed, and the reaction mixture was warmed to ambient tempeature, where it stirred for 1.5 hours. After this time the reaction mixture was warmed to 40° C., where it was stirred for 30 minutes, and then poured onto 50 grams of ice. A solution of 5.9 grams (0.146 mole) of sodium hydroxide in 20 mL of water was added during a 2-3 minute period, after which the mixture was heated to reflux and then cooled to ambient temperature. The cooled mixture was poured into 500 mL of water, stirred at ambient temperature for about 18 hours, and then filtered to collect a solid that had precipitated. The solid was washed with three portions of water and then dissolved in ethyl acetate. The ethyl acetate solution was subjected to column chromatography on silica gel with 1:1 ethyl acetate:hexane as eluant. The product-containing fractions were combined and concentrated under reduced pressure, yielding 1.4 grams of 4-chloro-3-formylindole. The NMR spectrum was consistent with the proposed structure.

reactant | phosphorus oxychloride | 0.015 mole, 2.3 grams | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-chloroindole | 0.013 mole, 2.0 grams | ClC1=C2C=CNC2=CC=C1 | C8H6ClN
reactant | sodium hydroxide | 0.146 mole, 5.9 grams | [OH-].[Na+]
reactant | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | 20 mL | O | H2O
solvent | water | 500 mL | O | H2O
product | 4-chloro-3-formylindole | 1.4 grams | ClC1=C2C(=CNC2=CC=C1)C=O | C9H6ClNO
